US06605628B1
5-Pent-4-ynyl-5-(toluene-4-sulfonyl)-thiazolidine-2,4-dione
In the manner of Example 100 above, 5-iodo-1-pentyne is reacted with 5-(toluene-4-sulfonyl)-thiazolidine-2,4-dione to give the title compound, mp 226° C., THEORY: C, 53.4, H, 4.48, N, 4.15. FOUND: C, 53.3, H, 4.58, N, 4.13.

reactant | 5-iodo-1-pentyne | ICCCC#C | C5H7I
reactant | 5-(toluene-4-sulfonyl)-thiazolidine-2,4-dione | C1(=CC=C(C=C1)S(=O)(=O)C1C(NC(S1)=O)=O)C | C10H9NO4S2
product | 5-Pent-4-ynyl-5-(toluene-4-sulfonyl)-thiazolidine-2,4-dione | C(CCC#C)C1(C(NC(S1)=O)=O)S(=O)(=O)C1=CC=C(C=C1)C | C15H15NO4S2
